US05232940
A solution of ethyl magnesium bromide, prepared from magnesium (0.57 g) and ethyl bromide (2.6 g) in dry diethyl ether (25 ml), was added dropwise to a stirred solution of 5-amino-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-thiocyanato-3-trifluoromethylpyrazole (5.0 g) in dry ether (50 ml) at -20° C. After stirring for a further 2 hours at room temperature, water (130 ml) was carefully added, and stirring maintained for 0.25 hour. The ether layer was separated, dried over anhydrous magnesium sulphate, and evaporated in vacuo to give a yellow gum. Purification by chromatography on silica (Merck, 230-400 mesh, 0.7 kg cm-2) eluting with dichloromethane-petroleum ether (1:1) gave a product, which recrystallized from hexane to furnish 5-amino-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-ethylthio-3-trifluoromethylpyrazole, in the form of white needles, m.p. 116°-116.5° C.

reactant | ethyl magnesium bromide | C(C)[Mg]Br
reactant | magnesium | 0.57 g | [Mg] | Mg
reactant | ethyl bromide | 2.6 g | C(C)Br | C2H5Br
reactant | 5-amino-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-thiocyanato-3-trifluoromethylpyrazole | 5.0 g | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C(F)(F)F)SC#N | C12H4Cl2F6N4S
solvent | diethyl ether | 25 ml | C(C)OCC | C4H10O
solvent | ether | 50 ml | CCOCC | C4H10O
solvent | water | 130 ml | O | H2O
product | 5-amino-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-ethylthio-3-trifluoromethylpyrazole | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C(F)(F)F)SCC | C13H9Cl2F6N3S
